US06664412B2
4-methyl-4-nitropentanol Methanesulfonate
4-Methyl-4-nitropentanol (4.3 g, 29.2 mmol) was dissolved in methylene chloride (100 ml) and triethylamine (6.1 ml, 43.8 mmol) was added, which was followed by ice-cooling. Methanesulfonyl chloride (2.94 ml, 38.0 mmol) was added and the mixture was stirred for 1 h under ice-cooling. The mixture was washed with water (50 ml), 0.5 mol/L hydrochloric acid (50 ml), 5% aqueous sodium hydrogencarbonate solution (50 ml) and saturated brine (50 ml). Methylene chloride was evaporated by concentration under reduced pressure and the residue was subjected to crystallization with ethyl acetate (4 ml) and n-hexane (20 ml). After filtration, the residue was dried under reduced pressure at 40° C. to give the objective compound (6.17 g, yield 93.8%).

reactant | 4-Methyl-4-nitropentanol | 29.2 mmol, 4.3 g | CC(CCCO)(C)[N+](=O)[O-] | C6H13NO3
reactant | triethylamine | 43.8 mmol, 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 38.0 mmol, 2.94 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-4-nitropentanol Methanesulfonate | 6.17 g, yield 93.8% | CS(=O)(=O)OCCCC(C)([N+](=O)[O-])C | C7H15NO5S
